US05939447
Methyl 4-(4-oxo-4-phenylbutoxy)benzoate ethylene acetal (27.0 g), denatured alcohol (90 mls), water (90 ml) and sodium hydroxide (9.0 g, 0.225 moles) were heated at reflux for 3 hours. The mixture was cooled to 20° C., diluted with water (250 ml) and extracted with toluene (2×250 ml). The aqueous phase was acidified with concentrated hydrochloric acid (35 ml) and the precipitate filtered, washed with water and dried to give 4-(4-oxo-4-phenylbutoxy)benzoic acid ethylene acetal (21.1 g, 70% from 4-chlorobutyrophenone).

reactant | Methyl 4-(4-oxo-4-phenylbutoxy)benzoate ethylene acetal | 27.0 g | C1COC(C2=CC=C(C=C2)OCCCC(C2=CC=CC=C2)=O)(OC)O1 | C20H22O5
reactant | sodium hydroxide | 0.225 moles, 9.0 g | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 90 ml | O | H2O
product | 4-(4-oxo-4-phenylbutoxy)benzoic acid ethylene acetal | 21.1 g, 70% | C1COC(C2=CC=C(C=C2)OCCCC(C2=CC=CC=C2)=O)(O)O1 | C19H20O5
